US05552397
a) (S)-2-Phthalimido-6-hydroxyhexanoic acid, phenylmethyl ester
A slurry of cesium carbonate (3.819 g, 11.7 mmol.) and (S)-2-phthalimido-6-hydroxyhexanoic acid (6.00 g, 21.6 mmol.) in dimethylformamide (60 ml.) was treated with benzyl bromide (3.30 ml., 4.75 g., 27.7 mmol.). After stirring at room temperature for 2 hours, the mixture was partitioned between ethyl acetate and water. The organic extract was washed with water (twice) and brine, then dried (sodium sulfate), filtered and stripped to give an oil. The oil was flash chromatographed (Merck silica gel, 6/4-ethyl acetate/hexane) to give essentially pure product as a solid. Recrystallization from ethyl acetate/hexane gave 7.173 g. (1st crop) and 394 mg. (2nd crop) for a total of 7.567 g. of pure title product; m.p. 106°-108.5° C.; [α]D =-27.5° (c=1.5, methanol). TLC (75/25 ethyl acetate/hexanes) Rf =0.43.

reactant | cesium carbonate | 11.7 mmol, 3.819 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-2-phthalimido-6-hydroxyhexanoic acid | 21.6 mmol, 6.00 g | C1(C=2C(C(N1[C@H](C(=O)O)CCCCO)=O)=CC=CC2)=O | C14H15NO5
reactant | benzyl bromide | 27.7 mmol, 3.30 ml, 4.75 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | (S)-2-Phthalimido-6-hydroxyhexanoic acid, phenylmethyl ester | C1(C=2C(C(N1[C@H](C(=O)OCC1=CC=CC=C1)CCCCO)=O)=CC=CC2)=O | C21H21NO5
